US04552970
It is known, from J. pract. Chem. [2] 110 (1925) 300, to react 2,4-dinitrochlorobenzene with a large excess of cyanamide in aqueous ethanol to give 2,4-dinitrophenylcyanamide and to precipitate the latter by means of hydrochloric acid. When this precipitate is heated together with alcoholic hydrochloric acid, 2,4-dinitrophenylurea is obtained therefrom.

reactant | 2,4-dinitrochlorobenzene | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])Cl | C6H3ClN2O4
reactant | cyanamide | N#CN | CH2N2
solvent | ethanol | C(C)O | C2H6O
product | 2,4-dinitrophenylcyanamide | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])NC#N | C7H4N4O4
